US07449467B2
3-Bromo-5-(trifluoromethyl)pyridine
A solution of sodium nitrite (402 mg, 5.83 mmol) in water (6.8 mL) was added slowly to a suspension of 5-(trifluoromethyl)pyridin-3-amine (947 mg, 5.55 mmol) in hydrogen bromide (48% aqueous solution, 1.57 mL) in ice-water bath. After being stirred for 10 min, the resulting orange diazo solution was directly but slowly transferred to a stirring mixture of copper(I) bromide (876 mg, 6.11 mmol) and hydrogen bromide (48% aqueous solution, 0.38 mL). The resulting brown mixture was heated at 60° C. for 1 h. After cooling to room temperature, the mixture was diluted with methylene chloride, washed with 50% NaOH (until pH=11), and water. The aqueous layer was back extracted with methylene chloride. The combined organic extracts were carefully concentrated under vacuum to provide crude product without purification.

reactant | sodium nitrite | 5.83 mmol, 402 mg | N(=O)[O-].[Na+]
reactant | 5-(trifluoromethyl)pyridin-3-amine | 5.55 mmol, 947 mg | FC(C=1C=C(C=NC1)N)(F)F | C6H5F3N2
reactant | hydrogen bromide | 1.57 mL | Br | BrH
reactant | hydrogen bromide | 0.38 mL | Br | BrH
solvent | water | 6.8 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper(I) bromide | 6.11 mmol, 876 mg | [Cu]Br
product | 3-Bromo-5-(trifluoromethyl)pyridine | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
